US07223788B2
4-Butoxy-N-(4-{3-[(2-dimethylaminoacetyl)methylamino]pyrrolidin-1-yl}phenyl)-N-methylbenzamide
4-Butoxy-N-methyl-N-[4-(3-methylaminopyrrolidin-1-yl)phenyl]benzamide was reacted with N,N-dimethylglycine by method E. This resulted in the product with the molecular weight of 466.63 (C27H38N4O3); MS (ESI): 467 (M+H+).

reactant | 4-Butoxy-N-methyl-N-[4-(3-methylaminopyrrolidin-1-yl)phenyl]benzamide | C(CCC)OC1=CC=C(C(=O)N(C2=CC=C(C=C2)N2CC(CC2)NC)C)C=C1 | C23H31N3O2
reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
product | 4-Butoxy-N-(4-{3-[(2-dimethylaminoacetyl)methylamino]pyrrolidin-1-yl}phenyl)-N-methylbenzamide | C(CCC)OC1=CC=C(C(=O)N(C)C2=CC=C(C=C2)N2CC(CC2)NCC(CN(C)C)=O)C=C1 | C27H38N4O3
